US07078415B2
N-Boc-O-Methyl-D-threonine
To a solution of N-Boc-O-methyl-D-threonine methyl ester (8.09 mmol) in 1,4-dioxane (10 mL) is added a solution of LiOH (24.3 mmol) in water (20 mL). After stirring for 2–3 h, the solvents are removed in vacuo and the residue partitioned between water and ether. The aqueous layer is acidified with solid citric acid to approximately pH 3, then extracted with ethyl acetate. The ethyl acetate extract is washed with water, dried with MgSO4, filtered and concentrated in vacuo to yield 1.70 g (90%) of the title compound.

reactant | N-Boc-O-methyl-D-threonine methyl ester | 8.09 mmol | COC([C@H](NC(=O)OC(C)(C)C)[C@@H](OC)C)=O | C11H21NO5
reactant | LiOH | 24.3 mmol | [Li+].[OH-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | N-Boc-O-Methyl-D-threonine | 1.70 g, 90% | C(=O)(OC(C)(C)C)N[C@H]([C@@H](OC)C)C(=O)O | C10H19NO5
